US09290468B2
Step 2: 1-allyl-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazol-6-yl)cyclopropane-1-sulfonamide
To a solution of 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one (60 mg, 0.11 mmol) in THF (5 mL) was added potassium trimethylsilanolate (14 mg, 0.11 mmol). The reaction was stirred at room temperature for 1 h and quenched with saturated NH4Cl (aq.). The aqueous layer was extracted with EA (10 mL×2). The combined organic phase was washed with brine (20 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate, 5:1-3:1, v/v) to give the desired product (50 mg, 87.3% yield). 1H NMR (400 MHz, CDCl3): δ 8.24 (s, 1H), 7.65-7.63 (m, 2H), 7.31 (m, 1H), 7.01 (s, 1H), 6.83 (s, 1H), 5.74-5.56 (m, 1H), 5.02 (m, 2H), 2.77-2.71 (m, 1H), 2.12-2.0 (m, 1H), 1.75-1.71 (m, 2H), 1.21-0.97 (m, 2H).

reactant | 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one | 0.11 mmol, 60 mg | C(C=C)C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N=NS1)C2F)C2=C(C=C(C=C2)I)F)=O | C19H13F2IN4O3S2
reactant | potassium trimethylsilanolate | 0.11 mmol, 14 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-allyl-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazol-6-yl)cyclopropane-1-sulfonamide | 50 mg, 87.3% yield | C(C=C)C1(CC1)S(=O)(=O)NC1=CC2=C(N=NS2)C(=C1NC1=C(C=C(C=C1)I)F)F | C18H15F2IN4O2S2
